US06635633B2
C. 4-(6-Dimethylamino-1H-pyrrolo[3,2-c]pyridin-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester
Dimethyl-(1H-pyrrolo[3,2-c]pyridin-6-yl)-amine (100 mg, 0.62 mmol), 4-oxo-piperidine-1-carboxylic acid tert-butyl ester (248 mg, 1.24 mmol) and potassium hydroxide (139 mg, 2.48 mmol) were added in MeOH (5 mL) and heated to reflux for 16 h. The reaction mixture was then cooled to room temperature and poured into ice water (20 mL). The mixture was extracted with 10% MeOH/CH2Cl2 (5×10 mL). The organic extracts was dried over Na2SO4 and concentrated. The residue was purified by column chromatography (silica, 0-5% MeOH/CH2Cl2) to obtain 180 mg (85%) of the title compound. TLC (silica, 10% MeOH/CH2Cl2): Rf=0.58. MS (electrospray): exact mass calculated for C19H26N4O2, 342.21; m/z found, 343.2 (M++H). 1H NMR (CDCl3, 400 MHz): 9.09 (br s, 1H), 8.76 (s, 1H), 6.90 (d, J=2.15 Hz, 1H), 6.32 (s, 1H), 6.10 (br s, 1H), 4.10-4.05 (m, 2H), 3.62 (t, J=5.87 Hz, 2H), 3.03 (s, 6H), 2.52-2.44 (m, 2H), 1.46 (s, 9H).

reactant | Dimethyl-(1H-pyrrolo[3,2-c]pyridin-6-yl)-amine | 0.62 mmol, 100 mg | CN(C1=CC2=C(C=N1)C=CN2)C | C9H11N3
reactant | 4-oxo-piperidine-1-carboxylic acid tert-butyl ester | 1.24 mmol, 248 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)=O | C10H17NO3
reactant | potassium hydroxide | 2.48 mmol, 139 mg | [OH-].[K+]
solvent | MeOH | 5 mL | CO | CH4O
product | 4-(6-Dimethylamino-1H-pyrrolo[3,2-c]pyridin-3-yl)-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butyl ester | 180 mg, 85% | C(C)(C)(C)OC(=O)N1CCC(=CC1)C1=CNC2=C1C=NC(=C2)N(C)C | C19H26N4O2
